US04886814
N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine (Diastereomer A)
Prepared by analogy to Example 16 by reaction of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine (diastereomer A) in methanol with 1N sodium hydroxide solution. After the mixture has been neutralised with 1N hydrochloric acid it is extracted by shaking with methylene chloride, the extract is evaporated to dryness, and the remaining residue is triturated with petroleum ether and filtered off with suction.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCCC=1N=C(SC1)C(F)(F)F | C18H21F3N2O3S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(O)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H19F3N2O4S
